### PR TITLE
[Merged by Bors] - feat(Algebra/DirectSum): ker and range of `DirectSum.map`

### PR DESCRIPTION
**Pull request by Thmoas-Guan**
This adds the `AddSubmonoid`, `AddSubgroup`, and `Submodule` versions of these lemmas for `DFinsupp` and `DirectSum`.

Some new bundled coercion functions are needed along the way.

Co-authored-by: Eric Wieser <wieser.eric@gmail.com>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/DirectSum/Module.lean [hunk 1]
```diff
@@ -250,6 +250,47 @@ lemma lmap_eq_map (x : ⨁ i, M i) : lmap f x = map (fun i => (f i).toAddMonoidH
 
 end map
 
+section
```
Comment (eric-wieser) [inline Mathlib/Algebra/DirectSum/Module.lean:253]: Does this need a new section? It would be better to reuse the `M` variable above, rather than use the less clear `β` you use here.

Comment (Thmoas-Guan) [reply Mathlib/Algebra/DirectSum/Module.lean:253]: I agrre that the notation should change, however I need AddCommGroup, but the module above doesn't, I think I still need new variable. What do you think I should rename them into?

**Review by eric-wieser — COMMENTED** [review]
I think you're duplicating a fair bit of the work that `AddSubmonoid.pi` does here. Can I suggest something more along the lines of:
```lean
import Mathlib

variable {ι : Type*} {M : ι → Type*} {N : ι → Type*} [∀ i, AddCommGroup (M i)]
variable [∀ i, AddCommGroup (N i)] (f : ∀(i : ι), M i →+ N i)

namespace DFinsupp

lemma ker_mapRangeAddMonoidHom : (mapRange.addMonoidHom f).ker = (AddSubgroup.pi Set.univ (f · |>.ker)).comap DFinsupp.coeFnAddMonoidHom := by
  ext
  simp [AddSubgroup.mem_pi, DFinsupp.ext_iff,
    -- TODO: remove after #22984
    DFinsupp.coeFnAddMonoidHom]

end DFinsupp

namespace DirectSum

@[simps!]
def DirectSum.coeFnAddMonoidHom : (⨁ i, N i) →+ (Π i, N i) where
  toFun x := x
  __ := DFinsupp.coeFnAddMonoidHom

lemma ker_map : (map f).ker = (AddSubgroup.pi Set.univ (f · |>.ker)).comap DirectSum.coeFnAddMonoidHom := by
  convert DFinsupp.ker_mapRangeAddMonoidHom f
```
As a general rule, if you're proving anything about the module or additive group structure of `DirectSum`, you should prove it for `DFinsupp` first.

File: Mathlib/Algebra/DirectSum/Module.lean (hunk 1 above)
Comment (eric-wieser) [reply Mathlib/Algebra/DirectSum/Module.lean:253]: At any rate, I think you should repeat all these results (or rather, my suggested replacement for them below) for `mker` too, which would use the old variable

**Comment by Thmoas-Guan** [comment]
Sorry,  maybe I didn't get it clear, do you mean by adding the corresponding lemma for `DFinsupp` and apply to the current case and the one you mention?

**Comment by eric-wieser** [comment]
I mean both:
* Drop all the `mem_ker` lemmas in favor of just writing lemmas of the form `ker (map f) = _`
* Write these lemmas for `DFinsupp` first, then copy them across to `DirectSum` as a one-liner.

File: Mathlib/Algebra/DirectSum/Module.lean (hunk 1 above)
Comment (Thmoas-Guan) [reply Mathlib/Algebra/DirectSum/Module.lean:253]: Sorry, how? I didn't find any place in  `DFinsupp` importing `AddMonoidHom.ker`

Comment (eric-wieser) [reply Mathlib/Algebra/DirectSum/Module.lean:251]: Where does `#find_home` suggest you put such a lemma?

Comment (eric-wieser) [reply Mathlib/Algebra/DirectSum/Module.lean:251]: Let's put the theorems at the top of this file for now then, and see if reviewers have suggestions for better homes.

Comment (Thmoas-Guan) [reply Mathlib/Algebra/DirectSum/Module.lean:251]: My `#find_home` once broked, I don't know if it is working now. If it didn't break, then I'll leave it there.

Comment (Thmoas-Guan) [reply Mathlib/Algebra/DirectSum/Module.lean:251]: My `#find_home` once broked, I don't know if it is working now. If it didn't break (I believe so), then I'll leave it there for now.

File: Mathlib/Algebra/DirectSum/Module.lean [hunk 2]
```diff
@@ -248,6 +263,32 @@ lemma toAddMonoidHom_lmap :
...
+
+variable {α : ι → Type*} {β : ι → Type*} [∀ i, AddCommGroup (α i)]
+variable [∀ i, AddCommGroup (β i)] (f : ∀(i : ι), α i →+ β i)
+
+lemma ker_map : (map f).ker =
+    (AddSubgroup.pi Set.univ (f · |>.ker)).comap (DirectSum.coeFnAddMonoidHom α) :=
+  DFinsupp.ker_mapRangeAddMonoidHom f
+
+lemma range_map [DecidableEq ι] [(i : ι) → (x : β i) → Decidable (x ≠ 0)] : (map f).range =
+    (AddSubgroup.pi Set.univ (f · |>.range)).comap (DirectSum.coeFnAddMonoidHom β) := by
```
Comment (eric-wieser) [inline Mathlib/Algebra/DirectSum/Module.lean:276]: Can you prove this for `DFinsupp` first too?

File: Mathlib/Algebra/DirectSum/Module.lean [hunk 3]
```diff
@@ -23,6 +23,37 @@ in this file.
...
+variable [∀ i, AddCommGroup (N i)] (f : ∀(i : ι), M i →+ N i)
+
+namespace DFinsupp
+
+lemma ker_mapRangeAddMonoidHom : (mapRange.addMonoidHom f).ker =
+    (AddSubgroup.pi Set.univ (f · |>.ker)).comap DFinsupp.coeFnAddMonoidHom := by
+  ext
+  simp [AddSubgroup.mem_pi, DFinsupp.ext_iff]
+
+lemma range_map [DecidableEq ι] [(i : ι) → (x : N i) → Decidable (x ≠ 0)] :
```
Comment (eric-wieser) [inline Mathlib/Algebra/DirectSum/Module.lean:38]: You should remove these `Decidable` assumptions, and replace them with `classical` in the proof.

Comment (Thmoas-Guan) [reply Mathlib/Algebra/DirectSum/Module.lean:38]: Should this be done every where? Similarly in my other PRs?

Comment (eric-wieser) [reply Mathlib/Algebra/DirectSum/Module.lean]: Yes, certainly in your open PRs. If you spot existing lemmas that should be generalized that aren't related to your open PRs, feel free to create a new PR just removing the assumptions.

Note that this applies only to `classical`; you shouldn't be adding `open scoped Classical in`.

Comment (Thmoas-Guan) [reply Mathlib/Algebra/DirectSum/Module.lean]: One maybe unrelated problem : what about the existing `[DecidableEq ι]` scattered almost every where in the lemmas about `DirectSum`? Should they all be removed and use classical?

Comment (eric-wieser) [reply Mathlib/Algebra/DirectSum/Module.lean]: I think you'll find many of them cannot be replaced by `classical` in the proof. The rule is "Only use `Decidable` arguments if your _statement_ requires it". If only your proof requires it, that's a job for `classical`.

**Review by eric-wieser — COMMENTED** [review]
As a reminder from an earlier tangential comment hiding in a thread:

> I think you should repeat all these results [...] for `mker` too

i.e. the `AddSubmonoid` versions.

File: Mathlib/Algebra/DirectSum/Module.lean (hunk 3 above)
Comment (Thmoas-Guan) [reply Mathlib/Algebra/DirectSum/Module.lean]: Got it, thank you.

**Comment by eric-wieser** [comment]
`AddMonoidHom.mker` and `AddMonoidHom.mrange` are the "monoid" versions of the `m`-less "group" versions.

File: Mathlib/Algebra/DirectSum/Module.lean [hunk 4]
```diff
@@ -23,6 +23,52 @@ in this file.
...
+    use DFinsupp.mk x.support (g ·)
+    ext i
+    simp only [Finset.coe_sort_coe, mapRange.addMonoidHom_apply, mapRange_apply]
+    by_cases mem : i ∈ x.support
+    · rw [mk_of_mem mem, hg]
+    · rw [DFinsupp.not_mem_support_iff.mp mem, mk_of_not_mem mem, map_zero]
+
+end AddCommMonoid
+
+namespace AddCommGroup
```
Comment (eric-wieser) [inline Mathlib/Algebra/DirectSum/Module.lean:56]: Sorry, this was my mistake; I meant
```suggestion
section AddCommGroup
```

File: Mathlib/Algebra/DirectSum/Module.lean (hunk 1 above)
Comment (eric-wieser) [reply Mathlib/Algebra/DirectSum/Module.lean]: It found a better home after replacing the proof with `sorry`

**Comment by eric-wieser** [comment]
maintainer merge

Thanks for your patience here; I rehomed some lemmas and adding the missing linear map variants.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
